US07262212B2
A mixture of tert-butyl 4-bromobenzoate (4.8 g, 18.8 mmol), piperazine (9.7 g, 0.11 mol), palladium acetate (85 mg, 0.38 mmol), (S)-(−)-BINAP (352 mg, 0.57 mmol), and sodium tert-butoxide (2.7 g, 28.2 mmol) in toluene (50 ml) was refluxed under a nitrogen atmosphere for 2 hours. Ethyl acetate and water were added to the reaction mixture and the insoluble substances were removed by filtration though Celite, and the filtrate was extracted with ethyl acetate. The extract was washed with brine, dried over magnesium sulfate, and then filtered. The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (methylene chloride/methanol=5/1) to afford tert-butyl 4-(piperazin-1-yl)benzoate (3.8 g, yield 77%) as a gray powder.

reactant | tert-butyl 4-bromobenzoate | 18.8 mmol, 4.8 g | BrC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C11H13BrO2
reactant | piperazine | 0.11 mol, 9.7 g | N1CCNCC1 | C4H10N2
reactant | sodium tert-butoxide | 28.2 mmol, 2.7 g | CC(C)([O-])C.[Na+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 0.38 mmol, 85 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | (S)-(−)-BINAP | 0.57 mmol, 352 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=C(C4=CC=CC=C4C=C3)C5=C(C=CC6=CC=CC=C65)P(C7=CC=CC=C7)C8=CC=CC=C8 | C44H32P2
solvent | water | O | H2O
product | tert-butyl 4-(piperazin-1-yl)benzoate | 3.8 g, yield 77% | N1(CCNCC1)C1=CC=C(C(=O)OC(C)(C)C)C=C1 | C15H22N2O2
